datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)C1CC(CC(=O)O)[NH2+]C1C(=O)[O-:10].Oc1cccc2c1-c1ccc([NH2+:21][H:20])cc1C2>>CC(C)C1CC(CC(=O)O)[NH2+]C1C(=O)[O:10][H:20].Oc1cccc2c1-c1ccc([NH2:21])cc1C2 10=20;20,21=21",
"CC1CCCC(C)(C)[N:10]1C.Cc1c[n+]([C@@H]2C[C@@H](O)[C@H](CO)O2)c([O:21][H:20])nc1NCCc1ccccc1>>CC1CCCC(C)(C)[N+:10]1(C)[H:20].Cc1c[n+]([C@@H]2C[C@@H](O)[C@H](CO)O2)c([O-:21])nc1NCCc1ccccc1 10=20;20,21=21",
"COc1cc(C(N)=O)ccc1-c1nc2nn(C)cc2[n-:10]1.[NH3+]CCc1nnn[n:21]1[H:20]>>COc1cc(C(N)=O)ccc1-c1nc2nn(C)cc2[n:10]1[H:20].[NH3+]CCc1nnn[n-:21]1 10=20;20,21=21",
"CC(C=C(c1cccs1)c1cccs1)[N+:21]1([H:20])CCCCC1.NCC[NH:10]CCc1ccccc1>>CC(C=C(c1cccs1)c1cccs1)[N:21]1CCCCC1.NCC[NH+:10](CCc1ccccc1)[H:20] 10=20;20,21=21",
"[NH-]S(=O)(=O)c1nnc([N-:10]c2ccccc2)s1.c1ccc2c(c1)[NH+]=C(c1cc[n+:21]([H:20])cc1)[NH2+]2>>[NH-]S(=O)(=O)c1nnc([N:10](c2ccccc2)[H:20])s1.c1ccc2c(c1)[NH+]=C(c1cc[n:21]cc1)[NH2+]2 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CC(O)c1ccccc1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CC(O)c1ccccc1)[H:20] 10=20;20,21=21",
"C[C@H]1C[NH+:21]([H:20])[C@@H](C)C[NH2+]1.O=C(c1ccc2ccccc2c1)[O-:10]>>C[C@H]1C[NH:21][C@@H](C)C[NH2+]1.O=C(c1ccc2ccccc2c1)[O:10][H:20] 10=20;20,21=21",
"C[N:10]1C[C@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]21.Cc1ccccc1-n1nn[n+:21]([H:20])c1N>>C[N+:10]1([H:20])C[C@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]21.Cc1ccccc1-n1nn[n:21]c1N 10=20;20,21=21",
"COCC[O-:10].C[C:21](C1=CC=CC(Cl)=C1)([N+](=O)[O-])[H:20]>>COCC[O:10][H:20].C[C-:21](C1=CC=CC(Cl)=C1)[N+](=O)[O-] 10=20;20,21=21",
"CC1(C)CCCC(C)(C)[NH:10]1.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CC1(C)CCCC(C)(C)[NH+:10]1[H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"Cc1cc(/N=N/c2nc3ccccc3s2)c([O-:10])c2ncccc12.O=C1C=CC(=O)c2c1cccc2[O:21][H:20]>>Cc1cc(/N=N/c2nc3ccccc3s2)c([O:10][H:20])c2ncccc12.O=C1C=CC(=O)c2c1cccc2[O-:21] 10=20;20,21=21",
"CN(C)S(=O)(=O)c1ccc([N-:10]S(=O)(=O)c2ccc(N)cc2)cc1.Nc1ccc(S(=O)(=O)[N:21](c2ncc[nH]2)[H:20])cc1>>CN(C)S(=O)(=O)c1ccc([N:10](S(=O)(=O)c2ccc(N)cc2)[H:20])cc1.Nc1ccc(S(=O)(=O)[N-:21]c2ncc[nH]2)cc1 10=20;20,21=21",
"CCC[NH2+]CC[NH:10]CCC.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCC[NH2+]CC[NH+:10](CCC)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C[N:10](C)CCC(c1ccc(Cl)cc1)c1ccccn1.[S-]c1c2cncnc2nc[n+:21]1[H:20]>>C[N+:10](C)(CCC(c1ccc(Cl)cc1)c1ccccn1)[H:20].[S-]c1c2cncnc2nc[n:21]1 10=20;20,21=21",
"C[C@H](O)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@H]([NH2:10])CC[C@]4(C)[C@H]3CC[C@]12C.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C[C@H](O)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@H]([NH2+:10][H:20])CC[C@]4(C)[C@H]3CC[C@]12C.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(C)C[NH+:21](CC(=O)c1ccc(O)cc1)[H:20].[O-]c1c2ccccc2cn[n:10]1>>CC(C)C[NH:21]CC(=O)c1ccc(O)cc1.[O-]c1c2ccccc2cn[n+:10]1[H:20] 10=20;20,21=21",
"CC1(C)SC(=O)[N-:10]C1=O.Cc1cc(C(F)(F)F)[n+:21]([H:20])[nH]1>>CC1(C)SC(=O)[N:10]([H:20])C1=O.Cc1cc(C(F)(F)F)[n:21][nH]1 10=20;20,21=21",
"Cc1cc(N)ccc1C[NH2:10].Cc1ccc(CC[NH2+:21][H:20])cc1>>Cc1cc(N)ccc1C[NH2+:10][H:20].Cc1ccc(CC[NH2:21])cc1 10=20;20,21=21",
"CC(=O)NN=C1CC[N:10](C)CC1.O=C([O-])C(Cc1cccnc1)[NH2+:21][H:20]>>CC(=O)NN=C1CC[N+:10](C)([H:20])CC1.O=C([O-])C(Cc1cccnc1)[NH2:21] 10=20;20,21=21",
"CCCC[NH2+]CC[NH:10]CCCC.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCC[NH2+]CC[NH+:10](CCCC)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cc(N)ccc1-c1ccc([NH2+:21][H:20])cc1C.Nc1c(O)cccc1[O-:10]>>Cc1cc(N)ccc1-c1ccc([NH2:21])cc1C.Nc1c(O)cccc1[O:10][H:20] 10=20;20,21=21",
"O=C(Cc1ccccc1)N[O-:10].c1c[nH+]c(Cc2[nH]cc[n+:21]2[H:20])[nH]1>>O=C(Cc1ccccc1)N[O:10][H:20].c1c[nH+]c(Cc2[nH]cc[n:21]2)[nH]1 10=20;20,21=21",
"COc1ccc(-c2oc(-c3ccc([NH3+])cc3)c[n+:21]2[H:20])cc1.Cc1cc([NH2:10])ccc1[N+](=O)[O-]>>COc1ccc(-c2oc(-c3ccc([NH3+])cc3)c[n:21]2)cc1.Cc1cc([NH2+:10][H:20])ccc1[N+](=O)[O-] 10=20;20,21=21",
"C(=C/c1n[n+:21]([H:20])nn1-c1ccccc1)\c1ccccc1.Ic1cccc([NH2:10])c1>>C(=C/c1n[n:21]nn1-c1ccccc1)\c1ccccc1.Ic1cccc([NH2+:10][H:20])c1 10=20;20,21=21",
"C1CCC[NH+:21]([H:20])CCCCCCNCC1.O=[N+]([O-])c1c(Cl)nc[n-:10]1>>C1CCC[NH:21]CCCCCCNCC1.O=[N+]([O-])c1c(Cl)nc[n:10]1[H:20] 10=20;20,21=21",
"C[N+](C)(C)CC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C[N+](C)(C)CC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C1CSCC[NH:10]CCN1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C1CSCC[NH+:10]([H:20])CCN1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C[NH2+]CC[NH:10]C.Cc1cc(C(=O)[O:21][H:20])ccc1[N+](=O)[O-]>>C[NH2+]CC[NH+:10](C)[H:20].Cc1cc(C(=O)[O-:21])ccc1[N+](=O)[O-] 10=20;20,21=21",
"O=C([O-])/C=C/CC[NH2+:21][H:20].[O-]c1ccc2ccccc2[n+]1[O-:10]>>O=C([O-])/C=C/CC[NH2:21].[O-]c1ccc2ccccc2[n+]1[O:10][H:20] 10=20;20,21=21",
"CC(O)C[NH:10]C(C)(C)C.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC(O)C[NH+:10](C(C)(C)C)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
